US05599986
7.2.2 Synthesis of (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane
Combine oxalyl chloride (25.2 g, 0.198 mol) and toluene (200 mL). Cool to -5° C. Add N,N-dimethylformamide (15.0 g, 0.21 mol) as a solution in toluene (20 mL). Warm to 25° C. After 30 minutes, add a solution of (E)-2-(fluoromethylene)-4-(p-fluorophenyl)butan-l-ol (24.7 g, 30% by weight in toluene, 0.124 mol). After 18 hours, add water (500 mL) and stir for 30 minutes. Separate the organic layer, dry over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | oxalyl chloride | 0.198 mol, 25.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.21 mol, 15.0 g | CN(C=O)C | C3H7NO
reactant | (E)-2-(fluoromethylene)-4-(p-fluorophenyl)butan-l-ol | 0.124 mol, 24.7 g | F\C=C(\CO)/CCC1=CC=C(C=C1)F | C11H12F2O
reactant | water | 500 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-1-chloro-2-(fluoromethylene)-4-(p-fluorophenyl)butane | ClC/C(/CCC1=CC=C(C=C1)F)=C/F | C11H11ClF2
